US09216980B2
Step 1: 4-(9-Benzenesulfonyl-6-cyano-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-5-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-methylene-piperidine-1-carboxylic acid tert-butyl ester (0.70 g, 3.55 mmol) and 9-borabicyclo[3,3,1]nonane (0.5M solution in THF, 7 mL, 3.5 mmol) were heated at reflux for 1.5 h. The reaction mixture was cooled and added to a degassed mixture of 9-benzenesulfonyl-5-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (0.41 g, 1.0 mmol), [1,1-bis(diphenylphosphino) ferrocene]dichloropalladium(II) (0.090 g, 0.11 mmol) and potassium carbonate (0.18 g, 1.3 mmol) in water (1 mL) and DMF (10 mL) and the reaction mixture was then heated at 65° C. for 1.25 h. After cooling to ambient temperature the reaction mixture was then diluted with water (5 mL) and dichloromethane (10 mL). The aqueous phase was extracted with dichloromethane (2×15 mL) and the combined organic phase was washed with brine (15 mL), dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was triturated with pentane (10 mL) and the resultant material was purified by flash chromatography (silica, 5 g column, SPE-Si II, 0-2% methanol in DCM) to afford title compound as a yellow solid (202 mg, 38%). 1H NMR (CDCl3, 400 MHz): 9.81 (s, 1H), 8.79 (dd, J=4.8, 1.6 Hz, 1H), 8.33-8.27 (m, 3H), 7.66-7.60 (m, 1H), 7.55-7.46 (m, 3H), 4.22-4.01 (m, 2H), 3.34-3.27 (m, 2H), 2.62-2.50 (m, 2H), 1.97-1.76 (m, 2H), 1.72-1.46 (m, 3H), 1.45 (s, 9H).

reactant | 4-methylene-piperidine-1-carboxylic acid tert-butyl ester | 3.55 mmol, 0.70 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=C | C11H19NO2
reactant | 9-borabicyclo[3,3,1]nonane | 3.5 mmol, 0.5M, 7 mL | C12CCCC(CCC1)B2 | C8H15B
reactant | 9-benzenesulfonyl-5-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 1.0 mmol, 0.41 g | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3Br)C#N)C=CC=N2 | C17H9BrN4O2S
reactant | potassium carbonate | 1.3 mmol, 0.18 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 1 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 5 mL | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | [1,1-bis(diphenylphosphino) ferrocene]dichloropalladium(II) | 0.11 mmol, 0.090 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.Cl[Pd]Cl.[Fe]
product | 4-(9-Benzenesulfonyl-6-cyano-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-5-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester | 202 mg, 38% | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=C(N=CC2=C1C1=C(N2S(=O)(=O)C2=CC=CC=C2)N=CC=C1)C#N | C28H29N5O4S
